US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 72)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 87%). 1H NMR (300 MHz, CDCl3): δ 2.33-2.36 (m, 6H), 3.14-3.22 (m, 4H), 3.70-3.90 (m, 6H), 4.09-4.15 (m, 4H), 6.67-7.32 (m, 6H), 7.50-7.65 (m, 1H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 87% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C)OC | C23H27N5O3
